US07498460B2
Ethyl 4-{3-[4-(biphenyl-4-ylmethoxy)phenyl]propoxy}-3-({[(1R,3S)-3-(methoxycarbonyl)cyclopentyl]amino}carbonyl)benzoate
Preparation takes place in analogy to Example 5 from 2-{3-[4-(1,1′-biphenyl-4-yl-methoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid and methyl (1S,3R)-3-aminocyclopentanecarboxylate hydrochloride.

reactant | 2-{3-[4-(1,1′-biphenyl-4-yl-methoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C(=O)O)C=C(C=C1)C(=O)OCC)C1=CC=CC=C1 | C32H30O6
reactant | methyl (1S,3R)-3-aminocyclopentanecarboxylate hydrochloride | Cl.N[C@H]1C[C@H](CC1)C(=O)OC
product | Ethyl 4-{3-[4-(biphenyl-4-ylmethoxy)phenyl]propoxy}-3-({[(1R,3S)-3-(methoxycarbonyl)cyclopentyl]amino}carbonyl)benzoate | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OCC)C=C1)C(=O)N[C@H]1C[C@H](CC1)C(=O)OC)C1=CC=CC=C1 | C39H41NO7
